### PR TITLE
[Merged by Bors] - feat: define `Filter.IsApproximateUnit` and basic API

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/ApproximateUnit.lean [hunk 1]
```diff
@@ -0,0 +1,142 @@
...
+open Filter Topology Bornology
+
+section Def
+
+variable {α ι : Type*} [TopologicalSpace α] [Mul α]
+
+namespace Filter
+
+/-- The largest filter `l` such that `Tendsto (· * m) l (𝓝 m)` and `Tendsto (m * ·) l (𝓝 m)` -/
+@[to_additive]
```
Comment (j-loreaux) [inline Mathlib/Topology/ApproximateUnit.lean:52]:
```suggestion
@[to_additive "The largest filter `l` such that `Tendsto (· + m) l (𝓝 m)` and
`Tendsto (m + ·) l (𝓝 m)`"]
```

File: Mathlib/Topology/ApproximateUnit.lean [hunk 2]
```diff
@@ -0,0 +1,143 @@
...
+
+end Filter
+
+variable [Bornology α]
+
+/-- An *approximate unit* is a filter smaller than `mulLeftRightTendsto` along with a basis
+consisting of sets contained in a given bounded set. The former condition is equivalent to the
+condition that for all `m`, multiplication on the left (or right) tends to `m` along the filter.
+
+Note: this extends `Filter` and `Filter.HasBasis` rather than taking  -/
```
Comment (dupuisf) [inline Mathlib/Topology/ApproximateUnit.lean:83]: rather than taking what?

**Comment by j-loreaux** [comment]
sorry about those docstrings, I have no idea how I missed that.

File: Mathlib/Topology/ApproximateUnit.lean [hunk 3]
```diff
@@ -0,0 +1,148 @@
...
+
+/-- An *approximate unit* is a filter smaller than `mulLeftRightTendsto` along with a basis
+consisting of sets contained in a given bounded set. The former condition is equivalent to the
+condition that for all `m`, multiplication on the left (or right) tends to `m` along the filter.
+
+Note: this extends `Filter` and `Filter.HasBasis` rather than taking the filter as an argument.
+This is because, in many cases, the only interesting property of the filter is that it is smaller
+than `mulLeftRightTendsto` and we may only be interested in the filter basis itself. -/
+structure ApproximateUnit (p : ι → Prop) (s : ι → Set α)
+    extends Filter α, toFilter.HasBasis p s where
```
Comment (urkud) [inline Mathlib/Topology/ApproximateUnit.lean:86]: Why not define a predicate on `Filter`s instead? You can ask for 2 `Tendsto`s and `Disjoint l (cobounded α)`.

Comment (j-loreaux) [reply Mathlib/Topology/ApproximateUnit.lean:86]: Ah, that's a nice approach. I didn't think of the `Disjoint` spelling, and I'm also looking ahead to C*-algebras, where you really do want a basis with certain properties.

But for this definition I'll make the change to go basis-free.

File: Mathlib/Topology/ApproximateUnit.lean [hunk 4]
```diff
@@ -3,146 +3,80 @@ Copyright (c) 2024 Jireh Loreaux. All rights reserved.
...
-required that the elements of the basis are contained in the unit ball. In order to reduce the
-type class burden, we instead only require a bornology on the underlying type, and a bounded
-set containing all the elements of the basis.
+An *approximate unit* is a filter `l` such that multiplication on the left (or right) by `m : α`
+tends to `𝓝 m` along the filter, and additionally `l ≠ ⊥` and `Disjoint l (cobounded α)`.
+
+In many cases of interest, an approximate unit is specified by a filter basis with certain
+properties, and the filter itself is of less interest. For instance, in the case of non-unital
+normed rings, it is often required that the elements of the basis are contained in the unit ball.
+In order to reduce the type class burden, we instead only require a bornology on the underlying
```
Comment (dupuisf) [inline Mathlib/Topology/ApproximateUnit.lean:17]: I don't understand why we would need a basis for this. Can't we just say that `l ≤ principal (Metric.ball 0 1)`?

Comment (j-loreaux) [reply Mathlib/Topology/ApproximateUnit.lean:17]: Indeed you can there. I updated this to stop beating around the bush and just focus on the case I have in mind, which is obviously C⋆-algebras. I think the claim probably holds in other settings too (e.g., for approximate units in the convolution algebra $$L^1(\mathbb{R})$$).

File: Mathlib/Topology/ApproximateUnit.lean [hunk 5]
```diff
@@ -0,0 +1,71 @@
...
+such that multiplication on the left (and separately on the right) by `m : α` tends to `𝓝 m` along
+the filter. -/
+structure Filter.IsApproximateUnit {α : Type*} [TopologicalSpace α] [Mul α] [Bornology α]
+    (l : Filter α) : Prop where
+  /-- Multiplication on the left by `m` tends to `𝓝 m` along the filter. -/
+  tendsto_mul_left m : Tendsto (m * ·) l (𝓝 m)
+  /-- Multiplication on the right by `m` tends to `𝓝 m` along the filter. -/
+  tendsto_mul_right m : Tendsto (· * m) l (𝓝 m)
+  /-- The filter is bounded. -/
+  disjoint_cobounded : Disjoint l (cobounded α)
```
Comment (ADedecker) [inline Mathlib/Topology/ApproximateUnit.lean:34]: Do you have a reference for this assumption ? Naively it feels a bit out of place (as in, we're going to introduce a stronger assumption in the normed setting anyway), but I'm guessing this has something to do with matrices ?

Comment (j-loreaux) [reply Mathlib/Topology/ApproximateUnit.lean:34]: No, it's not about matrices (they don't have a bornology either). It was more just that when I went reading, it seemed that unbounded approximate identities were quite pathological (e.g., see [here](https://www.cambridge.org/core/services/aop-cambridge-core/content/view/43C36850709EE1DF6E22AC965C11722F/S0017089500008703a.pdf/unbounded-approximate-identities-in-normed-algebras.pdf), although I think I had found even more convincing evidence before, but I don't recall what it was).

However, I'm not committed to keeping this condition if we think it's better to remove it.

Comment (dupuisf) [reply Mathlib/Topology/ApproximateUnit.lean:34]: Perhaps we could remove the condition for now, and add it back later if not having it ends up being annoying.

Comment (j-loreaux) [reply Mathlib/Topology/ApproximateUnit.lean]: I've removed it, but if we prefer to put it back (even in this PR) it's just a `git revert` away.

**Review by dupuisf — APPROVED** [review]
Looks good! I'll let Anatole have a last look but I'm happy with this.

File: Mathlib/Topology/ApproximateUnit.lean [hunk 6]
```diff
@@ -0,0 +1,67 @@
...
+- In a C⋆-algebra, the filter generated by the sections `fun a ↦ {x | a ≤ x} ∩ closedBall 0 1`,
+  where `a` ranges over the positive elements of norm strictly less than 1.
+-/
+
+open Filter Topology
+
+/-- An *approximate unit* is a proper filter (i.e., `≠ ⊥`) such that multiplication on the left
+(and separately on the right) by `m : α` tends to `𝓝 m` along the filter. -/
+structure Filter.IsApproximateUnit {α : Type*} [TopologicalSpace α] [Mul α]
+    (l : Filter α) : Prop where
```
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Topology/ApproximateUnit.lean:26]: that's nice, but I'd prefer to leave it there for clarity.

**Comment by ADedecker** [comment]
(Coming for the last look in 10 minutes)

File: Mathlib/Topology/ApproximateUnit.lean (hunk 5 above)
Comment (ADedecker) [reply Mathlib/Topology/ApproximateUnit.lean]: Indeed my thinking was not that we should try to work hard to include unbounded approximate identities (they seem pathological intuitively, and I'm glad I now know more precisely what goes wrong). My thinking was that you were going to introduce a more specific "supported on the closed unit ball" class for normed algebras anyway in #18506 (this is the general definition Bourbaki uses in a general normed algebra). Now, I don't know why I thought that because that's not what #18506 is. More interestingly, I don't know (let's say in normed algebras) wether there is any crucial distinction between "bounded approximate units" and "approximate units in the closed unit ball", the distinction being that we can talk about the former but not the latter if we just have a bornology.

So really I still don't know what is the right thing to do here. I think by default I would prefer to not add the condition until we're sure it's not going to backfire (e.g if someone wants to write down an approximate unit in the algebra of compactly supported smooth functions and convolution, I don't want them to have to define a bornology and everything), but if at any points that causes trouble I'm completely fine with adding it back.

Note: adding the bornology to matrices would be perfectly fine, since it's completely canonical

File: Mathlib/Topology/ApproximateUnit.lean [hunk 7]
```diff
@@ -0,0 +1,67 @@
...
+/-! # Approximate units
+
+An *approximate unit* is a filter `l` such that multiplication on the left (or right) by `m : α`
+tends to `𝓝 m` along the filter, and additionally `l ≠ ⊥`.
+
+Examples of approximate units include:
+
+- The trivial approximate unit `pure 1` in a normed ring.
+- `𝓝 1` or `𝓝[≠] 1` in a normed ring (note that the latter is disjoint from `pure 1`).
+- In a C⋆-algebra, the filter generated by the sections `fun a ↦ {x | a ≤ x} ∩ closedBall 0 1`,
```
Comment (ADedecker) [inline Mathlib/Topology/ApproximateUnit.lean:17]: This is still true (and slightly stronger) if you replace `closedBall` by `ball` right? Anyway, we can talk about this in the following PR.

File: Mathlib/Topology/ApproximateUnit.lean [hunk 8]
```diff
@@ -0,0 +1,67 @@
...
+
+variable (α) in
+/-- A unital magma with a topology and bornology has the trivial approximate unit `pure 1`. -/
+lemma pure_one : IsApproximateUnit (pure (1 : α))  where
+  tendsto_mul_left m := by simpa using tendsto_pure_nhds (m * ·) (1 : α)
+  tendsto_mul_right m := by simpa using tendsto_pure_nhds (· * m) (1 : α)
+
+set_option linter.unusedVariables false in
+/-- If `l` is an approximate unit and `⊥ < l' ≤ l`, then `l'` is also an approximate unit. -/
+lemma of_le {l l' : Filter α} (hl : l.IsApproximateUnit) (hle : l' ≤ l) [hl' : l'.NeBot] :
```
Comment (ADedecker) [inline Mathlib/Topology/ApproximateUnit.lean:48]:
```suggestion
/-- If `l` is an approximate unit and `⊥ < l' ≤ l`, then `l'` is also an approximate unit. -/
lemma mono {l l' : Filter α} (hl : l.IsApproximateUnit) (hle : l' ≤ l) [l'.NeBot] :
```
(I don't feel strongly about the name, but this is what I would have expected)

File: Mathlib/Topology/ApproximateUnit.lean [hunk 9]
```diff
@@ -0,0 +1,67 @@
...
+  tendsto_mul_right m := hl.tendsto_mul_right m |>.mono_left hle
+
+variable (α) in
+/-- In a topological unital magma, `𝓝 1` is an approximate unit. -/
+lemma nhds_one [ContinuousMul α] : IsApproximateUnit (𝓝 (1 : α)) where
+  tendsto_mul_left m := by simpa using tendsto_id (x := 𝓝 1) |>.const_mul m
+  tendsto_mul_right m := by simpa using tendsto_id (x := 𝓝 1) |>.mul_const m
+
+/-- In a topological unital magma, `𝓝 1` is the largest approximate unit. -/
+lemma iff_neBot_and_le_nhds_one [ContinuousMul α] {l : Filter α} :
```
Comment (ADedecker) [inline Mathlib/Topology/ApproximateUnit.lean:60]:
```suggestion
lemma _root_.Filter.isApproximateUnit_iff_le_nhds_one [ContinuousMul α] {l : Filter α} :
```
I would say that it's okay to remove the "neBot" part from the lemma name. 

Also, even though it's slightly weaker, did you consider moving `NeBot` in the assumptions, like for [cauchy_iff_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/Cauchy.html#cauchy_iff_le)? I'm not fully convinced myself, but if that sounds like a good idea to you I'd say go for it.

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Topology/ApproximateUnit.lean (hunk 5 above)
Comment (j-loreaux) [reply Mathlib/Topology/ApproximateUnit.lean]: > Now, I don't know why I thought that because that's not what #18506 is.

Well, it *does* include that `IncreasingApproximateUnit`, but that also has the condition that the elements are nonnegative, so there is a potential in-between predicate here.

> any crucial distinction between "bounded approximate units" and "approximate units in the closed unit ball"

This distinction matters for C⋆-algebras in the context of `IncreasingApproximateUnit`s, because the point is that if `0 ≤ x` and `‖x‖ ≤ 1`, then `0 ≤ 1 - x`, which is used *everywhere*.

> Note: adding the bornology to matrices would be perfectly fine, since it's completely canonical

Of course, but we don't have it at the moment I don't think.

File: Mathlib/Topology/ApproximateUnit.lean (hunk 9 above)
Comment (j-loreaux) [reply Mathlib/Topology/ApproximateUnit.lean:60]: I kept the name and added the version which assumes `NeBot` under the name you suggested (well, almost, I kept it inside the namespace; I realize dot notation doesn't apply, but I think it's better to namespace more things).

**Comment by j-loreaux** [comment]
bors merge
